US05569781
Example (1): Preparation of Methyl 1-aminocarbonylcyclopropanecarboxylate
Ammonia (20 l/h) is passed at 20° C. into a solution of 1,106 g (7 mol) of dimethyl cyclopropanedicarboxylate in 700 ml of methanol, with stirring. After approximately 10 hours, addition of NH3 is stopped, and the reaction mixture is cooled to 8° C. The solid formed is filtered off with suction, then washed using 200 g of cold methanol. After drying the product, 926.2 g (92.5%) of methyl 1-aminocarbonylcyclopropanecarboxylate are obtained (m.p.: 157° C.).

reactant | Ammonia | N | H3N
reactant | dimethyl cyclopropanedicarboxylate | 7 mol, 1,106 g | C1(CC1)(C(=O)OC)C(=O)OC | C7H10O4
solvent | methanol | 700 ml | CO | CH4O
product | Methyl 1-aminocarbonylcyclopropanecarboxylate | NC(=O)C1(CC1)C(=O)OC | C6H9NO3
